US09119868B2
Step 3: 6-(N-(4-amino-3-(difluoromethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
A solution of 5-cyclopropyl-6-(N-(3-(difluoromethyl)-4-nitrophenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (1.45 g, 2.53 mmol) and 10% Pd/C (catalytic) in MeOH (15 mL) was stirred under a hydrogen atmosphere (20 psi) for 3 h. The reaction mixture was filtered through celite, evaporated, and purified by silica gel chromatography (0-50% EtOAc/hexanes) to afford the title compound (0.87 g, 63%) as a white solid. LCMS (m/z, ES+)=544.3 (M+H+).

reactant | 5-cyclopropyl-6-(N-(3-(difluoromethyl)-4-nitrophenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 2.53 mmol, 1.45 g | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)F | C27H22F3N3O6S
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 6-(N-(4-amino-3-(difluoromethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.87 g, 63% | NC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)C(F)F | C27H24F3N3O4S
